US04885298
A solution of 1 g 3-ethylidene-6-methyl-thioflavanone, 100 mg selenium dioxide, 3.65 ml 30% hydrogen peroxide in 10 ml dioxane is warmed at 70° C. for 5 hours. Water is added and extraction with methylene chloride is followed by drying over magnesium sulfate and evaporation. The resulting white solid is purified by column chromatography over silicagel using methylene chloride as eluant. The best fractions are are mixed and recrystallised in a mixture of hexane and toluene. Pure 3-ethylidene-6-methyl-thioflavanone-1,1-dioxide is obtained as white crystals; m.p. 163°-174° C.

reactant | 3-ethylidene-6-methyl-thioflavanone | 1 g | C(C)=C1C(OC2=CC=C(C=C2C1=S)C)C1=CC=CC=C1 | C18H16OS
reactant | selenium dioxide | 100 mg | [Se](=O)=O | O2Se
reactant | hydrogen peroxide | 3.65 ml | OO | H2O2
reactant | Water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-ethylidene-6-methyl-thioflavanone-1,1-dioxide | C(C)=C1C([O+](C2=CC=C(C=C2C1=S)C)([O-])=O)C1=CC=CC=C1 | C18H16O3S
